US07655669B2
4-Diethylamino-3-(trifluoromethyl)-benzonitrile
A mixture of 4-bromo-3-(trifluoromethyl)-benzonitrile (Yonezawa et al., Synthetic Communications (1996), 26, 1575-1578; 6.0 g, 24 mmol), diethylamine (8.3 mL, 80 mmol) and 25 mL N,N-dimethylacetamide is stirred in a tightly closed vessel for 16 hours at 135° C. After cooling, the reaction mixture is treated with a half-saturated aqueous solution of sodium hydrogen carbonate and extracted three times with ethyl acetate. The combined organic extracts are dried (Na2SO4) and the solvent is evaporated off under reduced pressure. The crude product is purified by column chromatography on silica gel, eluent hexane/ethyl acetate to give the title compound as an orange oil.

reactant | 4-bromo-3-(trifluoromethyl)-benzonitrile | 24 mmol, 6.0 g | BrC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | diethylamine | 80 mmol, 8.3 mL | C(C)NCC | C4H11N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
product | 4-Diethylamino-3-(trifluoromethyl)-benzonitrile | C(C)N(C1=C(C=C(C#N)C=C1)C(F)(F)F)CC | C12H13F3N2
